US04728747
2-(1-Cyanoprop-2-yl)-3-(2-methylpropyl)-bicyclo[2.2.1]heptane
A solution of 30.6 g (0.14 mole) of 2-(1-cyanoprop-1-en-2-yl)-3-(2-methylprop-1-en-1-yl)-bicyclo[2.2.1]heptane in 100 ml of ethyl acetate was stirred together with 800 mg of 10% palladium on carbon at 90° C. in a hydrogen atmosphere under 90 bar, until the pressure remained constant for 5 hours.

reactant | 2-(1-cyanoprop-1-en-2-yl)-3-(2-methylprop-1-en-1-yl)-bicyclo[2.2.1]heptane | 0.14 mole, 30.6 g | C(#N)C=C(C)C1C2CCC(C1C=C(C)C)C2 | C15H21N
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 800 mg | [Pd] | Pd
product | 2-(1-Cyanoprop-2-yl)-3-(2-methylpropyl)-bicyclo[2.2.1]heptane | C(#N)CC(C)C1C2CCC(C1CC(C)C)C2 | C15H25N
